US05712300
Preparation of N-Hydroxy-3-methyl-4-(2-methylpropyl)-2,5-dioxo-1-(2-phenylethyl)-4-imidazolidineacetamide
Ammonium formate (59.0 mg, 0.936 mmol) is added to a mixture of N-benzyloxy-3-methyl-4-(2-methylpropyl)-2,5-dioxo-1-(2-phenylethyl)-4-imidazolidineacetamide (91.0 mg, 0.208 mmol), EtOH (2.5 mL), and 10% Pd/C (15 mg). The mixture is stirred at room temperature for 5.5 hours. Additional ammonium formate (35.0 mg, 0.555 mmol) is added after 2.5 hours. The mixture is filtered, the solids washed with MeOH (3×15 mL) and CHCl3 (3×15 mL), and the filtrate concentrated. The residue was taken up into CHCl3 (40 mL), dried (MgSO4), filtered, and concentrated to give 64.7 mg (90%) of the title compound as an oil. Crystallization from ether/hexane provided 46.4 mg (64%) of the title compound as a white powder (mp 127°-129° C.).

reactant | Ammonium formate | 0.936 mmol, 59.0 mg | C(=O)[O-].[NH4+]
reactant | N-benzyloxy-3-methyl-4-(2-methylpropyl)-2,5-dioxo-1-(2-phenylethyl)-4-imidazolidineacetamide | 0.208 mmol, 91.0 mg | C(C1=CC=CC=C1)ONC(CC1(N(C(N(C1=O)CCC1=CC=CC=C1)=O)C)CC(C)C)=O | C25H31N3O4
reactant | ammonium formate | 0.555 mmol, 35.0 mg | C(=O)[O-].[NH4+]
catalyst | Pd/C | 15 mg | [Pd] | Pd
solvent | EtOH | 2.5 mL | CCO | C2H6O
product | N-Hydroxy-3-methyl-4-(2-methylpropyl)-2,5-dioxo-1-(2-phenylethyl)-4-imidazolidineacetamide | 64.7 mg, 90% | ONC(CC1(N(C(N(C1=O)CCC1=CC=CC=C1)=O)C)CC(C)C)=O | C18H25N3O4
